US06291453B1
N-(Toluene-4-sulfonyl)-L-prolyl-4-[3-(3-phenylpropyl) thioureido]-L-phenylalanine Methyl Ester
An equimolar solution of N-(toluene-4-sulfonyl)-L-prolyl-4-amino-L-phenylalanine methyl ester and 3-phenylpropyl isothiocyanate in toluene was stirred at room temperature for 16 hr. The solvent was stripped off giving an amber oil which was submitted to preparatory HPLC (Waters silica cartridge; 85/15 CH2Cl2/EtOAc) for purification. The fractions were collected and the solvent removed yielding the title compound as a white solid, mp=74-80° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-4-amino-L-phenylalanine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)N)=O | C22H27N3O5S
reactant | 3-phenylpropyl isothiocyanate | C1(=CC=CC=C1)CCCN=C=S | C10H11NS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-[3-(3-phenylpropyl) thioureido]-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)NC(=S)NCCCC1=CC=CC=C1)=O | C32H38N4O5S2
